US04371736
5-Chloro-2-[2(5-nitropyridin-2-yloxy)phenoxy]pyridine
A mixture of 1.5 grams (0.0068 mole) 2-(5-chloropyridin-2-yloxy)phenol, 1.3 grams 2-chloro-5-nitropyridine, 1.0 grams potassium carbonate, and 40 ml of methyl ethyl ketone was heated at reflux overnight. Excess water was added and the aqueous mixture extracted with 200 ml of ethyl ether. The ether extract was washed with saturated NaHCO3, H2O, brine, dried (MgSO4), filtered, and the solvent was evaporated to yield a solid which was suspended in hexane and filtered. Yield 1.4 grams, m.p. 82°-84°; ir (Nujol): 6.15, 6.25 (C=N, NO2), 13.30 (broad), 13.70 microns; NMR (CDCl3): δ6.55 (s, ArH), 6.75 (d, ArH), 6.95 (s, ArH), 7.35 (s, 4H, ArH), 7.40-7.65 (m, ArH), 8.05 (d, ArH), 8.40 (AB quartet, ArH), 8.95 (d, ArH).

reactant | 2-(5-chloropyridin-2-yloxy)phenol | 0.0068 mole, 1.5 grams | ClC=1C=CC(=NC1)OC1=C(C=CC=C1)O | C11H8ClNO2
reactant | 2-chloro-5-nitropyridine | 1.3 grams | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium carbonate | 1.0 grams | C([O-])([O-])=O.[K+].[K+]
reactant | methyl ethyl ketone | 40 ml | C(C)C(=O)C | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | 5-Chloro-2-[2(5-nitropyridin-2-yloxy)phenoxy]pyridine | ClC=1C=CC(=NC1)OC1=C(C=CC=C1)OC1=NC=C(C=C1)[N+](=O)[O-] | C16H10ClN3O4
